US09056865B2
Step 4: 1-(4-(5′-chloro-3,5-dimethyl-2,4′-bipyridin-2′-yl)piperazin-1-yl)-3-(methylsulfonyl)propan-1-one
To a solution of 5′-chloro-3,5-dimethyl-2′-(piperazin-1-yl)-2,4′-bipyridine (2.3 g, 15.1 mmol) and HOBT (2.55 g, 18.9 mmol) in CH2Cl2 (60 mL) was added NMM (5.67 g, 56.7). After stirring for 30 min at room temperature, EDCI (3.63 g, 18.9 mmol) and 3-(methylsulfonyl)propanoic acid (3.9 g, 12.6 mmol) were added and the mixture was stirred at 30° C. for 18 hours. TLC (CH2Cl2/MeOH=10:1) showed the starting material was consumed completely. After removal of the solvent in vacuo, the residue was dissolved in CH2Cl2 (180 mL), washed with saturated aq. NaHCO3 (40 mL), saturate aq. NH4Cl (40 mL) and brine (40 mL). The resulting material was dried over Na2SO4 and concentrated in vacuo to give title compound (4.8 g, 90%) as white solid. 1H NMR (400 MHz, CDCl3): δ 8.28 (s, 1H), 8.15 (s, 1H), 7.36 (s, 1H), 6.53 (s, 1H), 3.69-3.66 (m, 2H), 3.58-5.53 (m, 4H), 3.48-3.46 (m, 2H), 3.41-3.37 (m, 2H), 2.94 (s, 3H) 2.89-2.86 (m, 2H), 2.31 (s, 3H), 2.10 (s, 3H); m/z for C20H25ClN4O3S 437.3 (M+H)+.

reactant | 5′-chloro-3,5-dimethyl-2′-(piperazin-1-yl)-2,4′-bipyridine | 15.1 mmol, 2.3 g | ClC=1C(=CC(=NC1)N1CCNCC1)C1=NC=C(C=C1C)C | C16H19ClN4
reactant | HOBT | 18.9 mmol, 2.55 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 5.67 g | CN1CCOCC1 | C5H11NO
reactant | EDCI | 18.9 mmol, 3.63 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | 3-(methylsulfonyl)propanoic acid | 12.6 mmol, 3.9 g | CS(=O)(=O)CCC(=O)O | C4H8O4S
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 1-(4-(5′-chloro-3,5-dimethyl-2,4′-bipyridin-2′-yl)piperazin-1-yl)-3-(methylsulfonyl)propan-1-one | 4.8 g, 90% | ClC=1C(=CC(=NC1)N1CCN(CC1)C(CCS(=O)(=O)C)=O)C1=NC=C(C=C1C)C | C20H25ClN4O3S
